US05576324
2-Azidomethyl-2,5,8,8-tetramethyl-2,3,6,7,8,9-hexahydrofuro[2,3-f]quinoline-7-one
Using 2-bromomethyl-2,5,8,8-tetramethyl-2,3,6,7,8,9-hexahydrofuro[2,3-f]quinoline-7-one (1.28 g, 3.78 mmol) and sodium azide (1.96 g, 30.1 mmol), the procedure of Example 300 was followed (reaction, post-treatment, and recrystallization from ethyl acetate-hexane) to obtain 921 mg of the title compound as colorless needles (81%).

reactant | 2-bromomethyl-2,5,8,8-tetramethyl-2,3,6,7,8,9-hexahydrofuro[2,3-f]quinoline-7-one | 3.78 mmol, 1.28 g | BrCC1(CC=2C(=C3CC(C(NC3=C(C2)C)=O)(C)C)O1)C | C16H20BrNO2
reactant | sodium azide | 30.1 mmol, 1.96 g | [N-]=[N+]=[N-].[Na+]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-Azidomethyl-2,5,8,8-tetramethyl-2,3,6,7,8,9-hexahydrofuro[2,3-f]quinoline-7-one | 921 mg, 81% | N(=[N+]=[N-])CC1(CC=2C(=C3CC(C(NC3=C(C2)C)=O)(C)C)O1)C | C16H20N4O2
